US07691850B2
e) 4-bromo-8-fluoro-6-(methoxy)-3-quinolinecarboxylic acid
A solution of ethyl 4-bromo-8-fluoro-6-(methoxy)-3-quinolinecarboxylate (12.2 g, 37.3 mmol) in tetrahydrofuran (450 mL) was diluted by addition of a solution of sodium hydroxide 2N (27 mL) in water (75 mL). The reaction mixture was stirred overnight at room temperature then acidified to pH 3 with a solution of hydrogen chloride 5N. The solvents were evaporated to half the volume in vacuo. The reaction mixture was acidified to pH 1 by further addition of hydrogen chloride 5N, cooled to 4° C. for 30 minutes then filtered. The precipitate was dried in vacuo to afford the product as a white solid (10.1 g, 90%); MS (+ve ion electrospray) m/z 301 (MH+).

reactant | ethyl 4-bromo-8-fluoro-6-(methoxy)-3-quinolinecarboxylate | 37.3 mmol, 12.2 g | BrC1=C(C=NC2=C(C=C(C=C12)OC)F)C(=O)OCC | C13H11BrFNO3
reactant | sodium hydroxide | 2N, 27 mL | [OH-].[Na+]
reactant | hydrogen chloride | 5N | Cl | ClH
solvent | tetrahydrofuran | 450 mL | O1CCCC1 | C4H8O
solvent | water | 75 mL | O | H2O
product | 4-bromo-8-fluoro-6-(methoxy)-3-quinolinecarboxylic acid | 10.1 g, 90% | BrC1=C(C=NC2=C(C=C(C=C12)OC)F)C(=O)O | C11H7BrFNO3
